US04532243
A solution of 20 g of 4-methoxy-5,6,7,8-tetrahydro-2-quinazolinamine, 28.6 g of 3-bromo-1-phenyl-propane- 1,2-dione and 400 ml of ether was stirred overnight at room temperature and was filtered. The 29.5 g of 4-methoxy-1-(3-phenyl-2,3-dioxopropyl)-5,6,7,8-tetrahydro-2-quinazolinium bromide were washed with ether and suspended in methanol. The suspension was refluxed for 2 hours and the solution was evaporated to dryness under reduced pressure. The residue was shaken with a mixture of aqueous potassium carbonate and chloroform and the decanted organic phase was washed with water, dried over magnesium sulfate and evaporated to dryness under reduced pressure. The residue was triturated with ethanol and filtered to obtain 18 g of (5-methoxy-6,7,8,9-tetrahydroimidazo[1,2-a]quinazolin-2-yl-phenylmethanone in the form of pale yellow crystals melting at 234° C.

reactant | 4-methoxy-5,6,7,8-tetrahydro-2-quinazolinamine | 20 g | COC1=NC(=NC=2CCCCC12)N | C9H13N3O
reactant | 3-bromo-1-phenyl-propane- 1,2-dione | 28.6 g | BrCC(C(=O)C1=CC=CC=C1)=O | C9H7BrO2
solvent | ether | 400 ml | CCOCC | C4H10O
product | 5-methoxy-6,7,8,9-tetrahydroimidazo[1,2-a]quinazolin-2-yl-phenylmethanone | COC1=NC=2N(C=3CCCCC13)C=C(N2)C(=O)C2=CC=CC=C2 | C18H17N3O2
